US08026234B2
Compound 34: 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-methylpiperazin-1-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-amino 4-methylpiperazine. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20-1.85 (m, 10H) 2.18 (s, 3H) 2.93 (br. s., 3H) 3.22-3.47 (m, 7H) 3.93 (s, 3H) 4.06 (t, J=13.39 Hz, 2H) 4.46 (m, 1H) 7.44 (br. s., 1H) 7.42 (d, J=8.84 Hz, 1H) 7.90 (s, 1H) 8.21 (s, 1H) 8.27 (d, J=8.08 Hz, 1H) 9.40 (s, 1H). [M+H] calculated for C27H36F2N8O3, 559. found 559.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-amino 4-methylpiperazine | NN1CCN(CC1)C | C5H13N3
product | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(4-methylpiperazin-1-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NN1CCN(CC1)C)C=C2)OC | C27H36F2N8O3
